US04666930
5 g (0.05 mol) of triethylamine are added to 9.8 g (0.05 mol) of 3-hydrazino-2H,3H-1,2-benzisothiazole 1,1-dioxide in 100 ml of dioxane, and 8.6 g (0.55 mol) of phenoxycarbonyl chloride, dissolved in 25 ml of dioxane, are then added dropwise to the stirred mixture. After about 2 hours, the precipitated salt is filtered off under suction and washed with 15 ml of cold dioxane, and the combined mother liquors are evaporated down. Crystallization from ethanol gives 12.8 g (81% of theory) of 3-phenoxycarbonylhydrazino-2H,3H-1,2-benzisothiazole 1,1-dioxide of melting point 216° C.

reactant | triethylamine | 0.05 mol, 5 g | C(C)N(CC)CC | C6H15N
reactant | 3-hydrazino-2H,3H-1,2-benzisothiazole 1,1-dioxide | 0.05 mol, 9.8 g | N(N)C1NS(C2=C1C=CC=C2)(=O)=O | C7H9N3O2S
reactant | phenoxycarbonyl chloride | 0.55 mol, 8.6 g | O(C1=CC=CC=C1)C(=O)Cl | C7H5ClO2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-phenoxycarbonylhydrazino-2H,3H-1,2-benzisothiazole 1,1-dioxide | 12.8 g, 81% | O(C1=CC=CC=C1)C(=O)NNC1NS(C2=C1C=CC=C2)(=O)=O | C14H13N3O4S
